US04420327
Production of N-[4-bromo-3-(1-propyl-2,2-ethylenedioxypropoxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 1.5 g. of N-[4-bromo-3(1-propyl-2-oxopropoxy)phenyl]-3,4,5,6-tetrahydrophthalimide, 0.7 g. of ethyleneglycol, 0.1 g. of p-toluenesulfonic acid and 30 ml. of benzene was refluxed with stirring under removing water for 5.5 hours and the reaction mixture was cooled to room temperature and 0.4 ml. of triethylamine was added. The solvent was distilled off under a reduced pressure. The residue was purified by a chromatography on a column of silica gel (developing solvent: ethyl acetate:n-hexane:triethylamine of 30:80:1) to obtain 1.2 g. of Compound No. 49 shown in Table 1.

reactant | N-[4-bromo-3(1-propyl-2-oxopropoxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(C(C)=O)CCC | C20H22BrNO4
reactant | ethyleneglycol | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[4-bromo-3-(1-propyl-2,2-ethylenedioxypropoxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(C2(C)OCCO2)CCC | C22H26BrNO5
